US07495007B2
To a solution of 4-chloro-3-fluoro-phenol (10 g, 68 mmol) in N,N-dimethylformamide (50 mL) was added potassium carbonate (19 g, 136 mmol), potassium iodide (11 g, 68 mmol), and (2-bromo-ethoxy)-tert-butyl-dimethyl-silane (18 g, 75 mmol, Aldrich). The reaction mixture was heated at 100° C. for 24 h. The crude was cooled, diluted with ethyl ether, washed with water, NaHCO3 solution, and brine. The organic layer was separated, dried over Na2SO4, and concentrated. The filtrate was concentrated and the residue was purified by chromatography (EtOAc:Hexanes=1:20) to give tert-butyl-[2-(4-chloro-3-fluoro-phenoxy)-ethoxy]-dimethyl-silane as colorless oil (Yield 14 g, 69%).

reactant | 4-chloro-3-fluoro-phenol | 68 mmol, 10 g | ClC1=C(C=C(C=C1)O)F | C6H4ClFO
reactant | potassium carbonate | 136 mmol, 19 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 68 mmol, 11 g | [I-].[K+]
reactant | (2-bromo-ethoxy)-tert-butyl-dimethyl-silane | 75 mmol, 18 g | BrCCO[Si](C)(C)C(C)(C)C | C8H19BrOSi
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
solvent | ethyl ether | C(C)OCC | C4H10O
product | tert-butyl-[2-(4-chloro-3-fluoro-phenoxy)-ethoxy]-dimethyl-silane | Yield 14 g, 69% | C(C)(C)(C)[Si](C)(C)OCCOC1=CC(=C(C=C1)Cl)F | C14H22ClFO2Si
